US04097669
9.3 g (0.05 mole) of 2-mercapto-5-trifluoromethyl-1,3,4-thiadiazole, 5.1 g (0.05 mole) of triethylamine and 8.1 g (0.05 mole) of o-chlorobenzyl chloride in 80 ml of absolute ethanol were stirred for 2 hours under nitrogen at 50° C and then poured onto ice. The precipitate was filtered off and purified by low temperature crystallization from petroleum ether. 10 g (64% of theory) of 2-(o-chlorobenzylthio)-5-trifluoromethyl-1,3,4-thiadiazole of melting point 36°-37° C were obtained. A solution of 9.8 g (0.048 mole) of m-chloroperbenzoic acid (85% pure) in 85 ml of methylene chloride was added dropwise to 5 g (0.016 mole) of the above compound in 10 ml of methylene chloride. The mixture was stirred for 4.5 hours under reflux and then mixed successively with a solution of 6.4 g of sodium sulfite in a little water, followed by a solution of 2.7 g of sodium carbonate in a little water, and stirred thoroughly for 15 minutes. The organic phase, after concentration and recrystallization from cyclo-hexane/ethyl acetate, gave colorless crystals. 4.8 g (87% of theory) of 2-(o-chlorobenzylsulfonyl)-5-trifluoromethyl-1,3,4-thiadiazole of melting point 103° C were obtained.

reactant | 2-mercapto-5-trifluoromethyl-1,3,4-thiadiazole | 0.05 mole, 9.3 g | SC=1SC(=NN1)C(F)(F)F | C3HF3N2S2
reactant | triethylamine | 0.05 mole, 5.1 g | C(C)N(CC)CC | C6H15N
reactant | o-chlorobenzyl chloride | 0.05 mole, 8.1 g | ClC1=C(CCl)C=CC=C1 | C7H6Cl2
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 2-(o-chlorobenzylthio)-5-trifluoromethyl-1,3,4-thiadiazole | 10 g, 64% | ClC1=C(CSC=2SC(=NN2)C(F)(F)F)C=CC=C1 | C10H6ClF3N2S2
